US09328279B2
2,3-Dihydroxypropylbutyldimethylammonium chloride:
In a 2 L reactor system 543.27 g of 3-chloro-1,2-dihydroxypropane (99.6%, 4.90 moles) is added to 721.03 g of distilled water. The solution is brought to 25° C. Over 45 minutes 479.54 g dimethylbutylamine (99.5%, 4.72 moles) is added to the reactor. After one hour of mixing the temperature is increased to 40° C. and held for one hour. The temperature is then increased to 50° C. and held for 2.5 hours. The temperature is then increased to 60° C. and held for one hour. External heating is turned off and the reaction solution is allowed to stir overnight (16 hours). The pH is then increased to 10.6 by adding 3.52 g sodium hydroxide (50%) and the temperature is increased to 40° C. After 30 minutes, 2.89 g sodium hydroxide (50%) is added to increase the pH from 9.9 to 10.7. After 30 additional minutes, 2.96 g of sodium hydroxide (50%) is added to increase the pH from 9.4 to 10.7. 6.84 g of 3-chloro-1,2-dihydroxypropane is then added and the solution is allowed to stir at room temperature for 60 hours. 11.39 g of trimethylamine (43.6%) and 1.80 g sodium hydroxide (50%) is then added. The solution is allowed to stir overnight (16 hours) at room temperature. The solution was then heated to 40° C. and purged with nitrogen to remove the excess trimethylamine. The solution is cooled to room temperature, the pH was adjusted to 6.9 and it is filtered through Whatman 42 filter paper. The isolated product has the following structure:

reactant | 3-chloro-1,2-dihydroxypropane | 4.90 moles, 543.27 g | ClCC(CO)O | C3H7ClO2
reactant | dimethylbutylamine | 4.72 moles, 479.54 g | CN(CCCC)C | C6H15N
reactant | sodium hydroxide | 3.52 g | [OH-].[Na+]
reactant | sodium hydroxide | 2.89 g | [OH-].[Na+]
reactant | sodium hydroxide | 2.96 g | [OH-].[Na+]
reactant | 3-chloro-1,2-dihydroxypropane | 6.84 g | ClCC(CO)O | C3H7ClO2
reactant | trimethylamine | 11.39 g | CN(C)C | C3H9N
reactant | sodium hydroxide | 1.80 g | [OH-].[Na+]
solvent | water | 721.03 g | O | H2O
product | 2,3-Dihydroxypropylbutyldimethylammonium chloride | [Cl-].OC(C[N+](C)(C)CCCC)CO | InChI=1S/C9H22NO2.ClH/c1-4-5-6-10(2,3)7-9(12)8-11;/h9,11-12H,4-8H2,1-3H3;1H/q+1;/p-1
